US06583321B1
Preparation of 4′-Methanesulfonyl-3,4-diethoxy-biphenyl
4′-methanesulfonyl-biphenyl-3,4-diol (30 mg) and potassium carbonate (38 mg) were dissolved in methylethylketone. Afterward, ethane iodide (0.027 ml) was added and refluxed for 3 hours at 100° C. After filtering just potassium carbonate, the residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/1, v/v). As a result, the present compound (20 mg, productive yield 67%) was obtained.

reactant | 4′-methanesulfonyl-biphenyl-3,4-diol | 30 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)O | C13H12O4S
reactant | potassium carbonate | 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethane iodide | 0.027 ml | [I-].CC
reactant | methylethylketone | CC(=O)CC | C4H8O
product | 4′-Methanesulfonyl-3,4-diethoxy-biphenyl | yield 67% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OCC)OCC | C17H20O4S
